US09029359B2
N-benzyl-1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine.
To a solution of 1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-one (75 mg, 0.2 mmol) and benzylamine (25 μL, 0.22 mmol) in MeOH (3 mL) was added AcOH (20 μL, 0.4 mmol) and NaBH3CN (32 mg, 0.5 mmol). The solution was stirred at rt for 16 hr after which time the solvent was removed in vacuo to afford a residue which was diluted with water and extracted with EtOAc. The organic phase was separated, washed with aq. NaHCO3 and water, dried (Na2SO4) and concentrated in vacuo to afford a residue which was purified by column chromatography (silica gel, gradient EtOAc in hexanes). EIMS (m/z): calcd. for C25H27N5O2S (M++1) 462.2. found 462.2.

reactant | 1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-one | 0.2 mmol, 75 mg | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CN=C2N2CC(CCC2)=O | C18H18N4O3S
reactant | benzylamine | 0.22 mmol, 25 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | AcOH | 0.4 mmol, 20 μL | CC(=O)O | C2H4O2
reactant | NaBH3CN | 0.5 mmol, 32 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | O | H2O
product | N-benzyl-1-(7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidin-3-amine | C(C1=CC=CC=C1)NC1CN(CCC1)C=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C25H27N5O2S
